US04140778
PREPARATION OF N-(2,3,5,6-TETRACHLORO-4-PYRIDYL)-N-(4-NITRO-2-TRIFLUOROMETHYLPHENYL)AMINE
Sodium hydride (4.8 grams of 57% oil dispersion) was washed with pentane and 30 ml. of DMF was added under nitrogen. The slurry was stirred and cooled to 0° C. To this was added a solution of 4-nitro-2-trifluoromethylaniline (11.0 grams, 0.053 mole) in 20 ml. of DMF; the addition was carried out slowly, keeping the temperature of the reaction mixture below 10° C. The reaction mixture was stirred for one hour, slowly reaching room temperature. The reaction mixture was then cooled to 0° C., pentachloropyridine (10 grams; 0.059 mole) added, and the reaction mixture stirred for 72 hours, slowly reaching room temperature. A yellow solid crystallized. It was separated and recrystallized from ethanol. Elemental analysis showed:

reactant | 4-nitro-2-trifluoromethylaniline | 0.053 mole, 11.0 grams | [N+](=O)([O-])C1=CC(=C(N)C=C1)C(F)(F)F | C7H5F3N2O2
reactant | pentachloropyridine | 0.059 mole, 10 grams | ClC1=C(C(=C(C(=N1)Cl)Cl)Cl)Cl | C5Cl5N
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(2,3,5,6-TETRACHLORO-4-PYRIDYL)-N-(4-NITRO-2-TRIFLUOROMETHYLPHENYL)AMINE | ClC1=NC(=C(C(=C1Cl)NC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)Cl)Cl | C12H4Cl4F3N3O2
